US04968343
2-(4-((6-Chloro-2-quinolinyl)oxy)phenoxy)-N-(4-(trifluoromethyl)phenyl)propanamide
A solution of 5 mmol of 2-(4-((6-chloro-2-quinolinyl)oxy)phenoxy)propionyl chloride, prepared as in Step A of Example 1 employing the corresponding acid, in 10 ml of methylene chloride was added dropwise to an ice-cooled solution of 1.09 g (5.5 mmol) of 4-aminobenzotrifluoride, hydrochloride, 1.21 g (12.0 mmol) of triethylamine and 50 ml of methylene chloride. The reaction mixture was stirred at room temperature for 3 hours and then poured into a dilute aqueous HCl solution. The organic layer was separated, washed with a saturated aqueous NaHCO3 solution, dried over MgSO4 and evaporated to dryness. The residual solid was recrystallized from methylcyclohexane to give 1.79 g (74 percent of theoretical) of the desired product as colorless crystals melting at 142°-146° C. The structure of the compound was confirmed by its IR and NMR spectrum. (Compound 6). The carbon, hydrogen and nitrogen contents were determined to be as follows:

reactant | 2-(4-((6-chloro-2-quinolinyl)oxy)phenoxy)propionyl chloride | 5 mmol | ClC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C18H13Cl2NO3
reactant | 4-aminobenzotrifluoride, hydrochloride | 5.5 mmol, 1.09 g | Cl.NC1=CC=C(C=C1)C(F)(F)F
reactant | triethylamine | 12.0 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-((6-Chloro-2-quinolinyl)oxy)phenoxy)-N-(4-(trifluoromethyl)phenyl)propanamide | ClC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C)C=C1 | C25H18ClF3N2O3
